US04174405
2-(p-Isopropylphenyl)-5-(phenylthio)thiophene
Into 150 ml of reagent carbon tetrachloride were added 29 g (0.143 mole) 2-(p-isopropylphenyl)thiophene, 17 ml (21 g, 0.145 mole) of benzenesulfenyl chloride and 0.05 g of iron powder. At the end of four days a vapor phase chromatogram of the reaction mixture showed the presence of diphenyl disulfide, unreacted 2-(p-isopropylphenyl)thiophene and the desired product. An additional 4 ml (5 g, 0.035 mole) of benzenesulfenyl chloride and 0.05 g of iron powder was added and the mixture allowed to stand another four days at room temperature. Evaporation of the carbon tetrachloride gave a residue which was twice recrystallized from 250-ml portions of petroleum ether. There was obtained 16 g (36%) of 2-(p-isopropylphenyl)-5-(phenylthio)thiophene, m.p. 61°-63° C.

reactant | 2-(p-isopropylphenyl)thiophene | 0.143 mole, 29 g | C(C)(C)C1=CC=C(C=C1)C=1SC=CC1 | C13H14S
reactant | benzenesulfenyl chloride | 0.145 mole, 17 ml, 21 g | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | diphenyl disulfide | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
catalyst | iron | 0.05 g | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(p-Isopropylphenyl)-5-(phenylthio)thiophene | C(C)(C)C1=CC=C(C=C1)C=1SC(=CC1)SC1=CC=CC=C1 | C19H18S2
